US09193693B2
Step 1. Methyl 4-(1-(4-fluorophenyl)-2-methoxy-2-oxoethylamino)-3-nitrobenzoate
Into a 250-mL round-bottom flask, was placed methyl 4-fluoro-3-nitrobenzoate (15.4 g, 77.78 mmol, 1.00 equiv), N,N-dimethylformamide (100 mL), methyl 2-amino-2-(4-fluorophenyl)acetate hydrochloride (20.4 g, 93.15 mmol, 1.20 equiv), and DIEA (50.2 g, 389.15 mmol, 5.00 equiv). The reaction was stirred overnight at 35° C. in an oil bath. The resulting solution was diluted with 500 ml of H2O and the resulting solids were collected by filtration. This resulted in 15 g (53%) of methyl 4-(1-(4-fluorophenyl)-2-methoxy-2-oxoethylamino)-3-nitrobenzoate as a yellow solid.

reactant | methyl 4-fluoro-3-nitrobenzoate | 77.78 mmol, 15.4 g, 1.00 equiv | FC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6FNO4
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | methyl 2-amino-2-(4-fluorophenyl)acetate hydrochloride | 93.15 mmol, 20.4 g, 1.20 equiv | Cl.NC(C(=O)OC)C1=CC=C(C=C1)F
reactant | DIEA | 389.15 mmol, 50.2 g, 5.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | H2O | 500 ml | O | H2O
product | Methyl 4-(1-(4-fluorophenyl)-2-methoxy-2-oxoethylamino)-3-nitrobenzoate | FC1=CC=C(C=C1)C(C(=O)OC)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C17H15FN2O6
